US08580976B2
comprising contacting 3-bromo-2-ethylbenzofuran with n-butyllithium at a temperature less than −75° C. to form 3-lithio-2-ethylbenzofuran, contacting the 3-lithio-2-ethylbenzofuran at a temperature less than −75° C. with an isopropyl boronate cyclic ester corresponding to the formula:

reactant | 3-bromo-2-ethylbenzofuran | BrC1=C(OC2=C1C=CC=C2)CC | C10H9BrO
reactant | n-butyllithium | C(CCC)[Li]
product | 3-lithio-2-ethylbenzofuran | [Li]C1=C(OC2=C1C=CC=C2)CC | InChI=1S/C10H9O.Li/c1-2-9-7-8-5-3-4-6-10(8)11-9;/h3-6H,2H2,1H3;
